US06051712
In an analogous manner to that described in Example 1 (g), by alkylating tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(2-phenethyloxy-ethoxy)-phenyl]-piperidine-1-carboxylate with 2-chloromethyl-1,4-dimethoxy-naphthalene there was obtained tert-butyl (3RS,4RS)-3-(1,4-dimethoxy-naphthalen-2-ylmethoxy)-4-[4-(2-phenethyloxy-ethoxy)-phenyl]-piperidine-1-carboxylate as a yellow solid; MS: 642 (M+H)+.

reactant | tert-butyl (3RS,4RS)-3-hydroxy-4-[4-(2-phenethyloxy-ethoxy)-phenyl]-piperidine-1-carboxylate | OC1CN(CCC1C1=CC=C(C=C1)OCCOCCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H35NO5
reactant | 2-chloromethyl-1,4-dimethoxy-naphthalene | ClCC1=C(C2=CC=CC=C2C(=C1)OC)OC | C13H13ClO2
product | tert-butyl (3RS,4RS)-3-(1,4-dimethoxy-naphthalen-2-ylmethoxy)-4-[4-(2-phenethyloxy-ethoxy)-phenyl]-piperidine-1-carboxylate | COC1=C(C=C(C2=CC=CC=C12)OC)COC1CN(CCC1C1=CC=C(C=C1)OCCOCCC1=CC=CC=C1)C(=O)OC(C)(C)C | C39H47NO7
